US06974806B2
Synthesis of methyl (2E)-3-[3-[7-chloro-3-(2-[[4-chloro-2-(trifluoromethyl)phenyl]amino]-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl]-2-propenoate
A solution of 2-[4-(3-bromophenyl)-7-chloro-6-methyl-2-oxo-2H-chromene-3-yl]-N-[4-chloro-2-(trifluoromethyl)phenyl]acetamide (500 mg) in DMF (5 ml) was combined with methyl acrylate (0.14 ml), triethylamine (0.21 ml), pd(OAc)2 (5 ml) and triphenylphosphine (10 mg) under argon atmosphere, and heated at 120° C. for 3 hours. After the reaction was completed, the mixture was combined with water, and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate, and then concentrated. The resultant residue was purified by a silica gel chromatography (eluent: hexane-ethyl acetate=2:1), and then recrystallized from THF-ethyl acetate to obtain the title compound as a colorless crystal (333 mg, yield: 67%). Melting point: 202-204° C.

reactant | 2-[4-(3-bromophenyl)-7-chloro-6-methyl-2-oxo-2H-chromene-3-yl]-N-[4-chloro-2-(trifluoromethyl)phenyl]acetamide | 500 mg | BrC=1C=C(C=CC1)C1=C(C(OC2=CC(=C(C=C12)C)Cl)=O)CC(=O)NC1=C(C=C(C=C1)Cl)C(F)(F)F | C25H15BrCl2F3NO3
reactant | methyl acrylate | 0.14 ml | C(C=C)(=O)OC | C4H6O2
reactant | triethylamine | 0.21 ml | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 10 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | pd(OAc)2 | 5 ml | CC(=O)O.CC(=O)O.[Pd]
solvent | water | O | H2O
product | methyl (2E)-3-[3-[7-chloro-3-(2-[[4-chloro-2-(trifluoromethyl)phenyl]amino]-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl]-2-propenoate | 333 mg, yield: 67% | ClC1=C(C=C2C(=C(C(OC2=C1)=O)CC(=O)NC1=C(C=C(C=C1)Cl)C(F)(F)F)C=1C=C(C=CC1)/C=C/C(=O)OC)C | C29H20Cl2F3NO5
